US05318966
3.19 g (0.01167 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-1H-benzo[e]indole were dissolved in 0.13 l of 48% aqueous HBr and boiled under reflux for 5 hours. The mixture was poured into an ice-cold aqueous solution of 46.3 g (1.16 mol) of NaOH. Solid NaHCO3 was added thereto and the mixture was extracted three times with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with Na2SO4, filtered and concentrated. The product obtained by chromatography of the residue over silica gel with cyclohexane/ethyl acetate 2:1 was dissolved in hot n-hexane and crystallized at room temperature. There were obtained 2.52 g (75%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-methyl-butyl)-1H-benzo[e]indol-6-ol as white crystals with m.p. 70°-72° and 0.59 g (16%) of oily material from the mother liquors.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(3-methyl-butyl)-1H-benzo[e]indole | 0.01167 mol, 3.19 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC(C)C | C18H27NO
reactant | NaOH | 1.16 mol, 46.3 g | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HBr | 0.13 l | Br | BrH
solvent | n-hexane | CCCCCC | C6H14
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-(3-methyl-butyl)-1H-benzo[e]indol-6-ol | 2.52 g, 75% | CC(CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O)C | C17H25NO
